
parameters  lmin=2*lambda         //minimum transistor length
parameters  wmin=3*lambda         //minimum transistor width
parameters  srcdrn_len=5*lambda   //source drain len 


subckt n_def (d g s b)   
 parameters ls=1 ws=1  


x0 (d g s b) cmosn w=ws*wmin l=ls*lmin as=(ws*wmin*srcdrn_len) ad=(ws*wmin*srcdrn_len) \
     ps=(2*ws*wmin+2*srcdrn_len) pd=(2*ws*wmin+2*srcdrn_len) 

ends n_def


subckt p_def (d g s b)   
  parameters ls=1 ws=1  

x0 (d g s b) cmosp w=ws*wmin l=ls*lmin as=(ws*wmin*srcdrn_len) ad=(ws*wmin*srcdrn_len) \
     ps=(2*ws*wmin+2*srcdrn_len) pd=(2*ws*wmin+2*srcdrn_len) 



ends p_def
 
