// 
simulator lang=spectre insensitive=yes
//   T44D SPICE BSIM3 VERSION 3.1 PARAMETERS
//  SPICE 3f5 Level 8, Star-HSPICE Level 49, UTMOST Level 8
//  DATE: Jun  7/04
//  LOT: T44D                  WAF: 8002
//  Temperature_parameters=Default
model cmosn bsim3v3 type=n 
+ version=3.1               tnom=27                   tox=7.7e-9
+ xj=1e-7                   nch=2.2e17                vth0=0.4752917
+ k1=0.5921206              k2=7.052713e-3            k3=100
+ k3b=-3.8371133            w0=3.366645e-5            nlx=2.261164e-7
+ dvt0w=0                   dvt1w=0                   dvt2w=0
+ dvt0=3.4833395            dvt1=0.7939888            dvt2=-0.1960557
+ u0=361.2276562            ua=-8.02792e-10           ub=2.32129e-18
+ uc=4.071487e-11           vsat=1.397299e5           a0=1.1750551
+ ags=0.1657898             b0=7.360827e-7            b1=5e-6
+ keta=2.859078e-3          a1=0                      a2=0.5370837
+ rdsw=1.027357e3           prwg=-0.0763282           prwb=-0.070024
+ wr=1                      wint=1.483687e-7          lint=0
+ xl=-5e-8                  xw=1.5e-7                 dwg=-5.573474e-9
+ dwb=4.921134e-9           voff=-0.0784109           nfactor=1.346553
+ cit=0                     cdsc=2.4e-4               cdscd=0
+ cdscb=0                   eta0=1                    etab=0.0151351
+ dsub=0.8246994            pclm=1.4105113            pdiblc1=1.894935e-3
+ pdiblc2=2.044588e-6       pdiblcb=-1e-3             drout=3.43802e-4
+ pscbe1=7.017623e8         pscbe2=5.647336e-4        pvag=0
+ delta=0.01                rsh=80.7                  mobmod=1
+ prt=0                     ute=-1.5                  kt1=-0.11
+ kt1l=0                    kt2=0.022                 ua1=4.31e-9
+ ub1=-7.61e-18             uc1=-5.6e-11              at=3.3e4
+ wl=0                      wln=1                     ww=0
+ wwn=1                     wwl=0                     ll=0
+ lln=1                     lw=0                      lwn=1
+ lwl=0                     capmod=2                  xpart=0.5
+ cgdo=2.73e-10             cgso=2.73e-10             cgbo=1e-12
+ cj=9.225459e-4            pb=0.8                    mj=0.3489068
+ cjsw=3.573846e-10         pbsw=0.8                  mjsw=0.1408003
+ cjswg=1.82e-10            pbswg=0.8                 mjswg=0.1408003
+ cf=0                      pvth0=-0.0294599          prdsw=-90.262638
+ pk2=3.227267e-3           wketa=-1.747884e-3        lketa=-9.857508e-4
// 
model cmosp bsim3v3 type=p 
+ version=3.1               tnom=27                   tox=7.7e-9
+ xj=1e-7                   nch=8.52e16               vth0=-0.7091919
+ k1=0.4175128              k2=-9.364477e-3           k3=75.3163678
+ k3b=-5                    w0=7.143268e-6            nlx=2.526762e-7
+ dvt0w=0                   dvt1w=0                   dvt2w=0
+ dvt0=1.6249913            dvt1=0.5527212            dvt2=4.847046e-3
+ u0=148.9315361            ua=1e-10                  ub=1.756588e-18
+ uc=-1.82142e-11           vsat=1.335288e5           a0=1.0702375
+ ags=0.3655592             b0=2.699213e-6            b1=5e-6
+ keta=-7.374033e-3         a1=1.092967e-3            a2=0.9808027
+ rdsw=4e3                  prwg=-0.1286687           prwb=0.1668357
+ wr=1                      wint=1.469298e-7          lint=0
+ xl=-5e-8                  xw=1.5e-7                 dwg=-1.709822e-8
+ dwb=1.013835e-8           voff=-0.1393108           nfactor=1.9700035
+ cit=0                     cdsc=2.4e-4               cdscd=0
+ cdscb=0                   eta0=0.0394846            etab=7.58735e-3
+ dsub=0.4386932            pclm=8.3086665            pdiblc1=0
+ pdiblc2=1.631215e-3       pdiblcb=-1e-3             drout=0.0344384
+ pscbe1=8e10               pscbe2=5.02506e-10        pvag=13.0371718
+ delta=0.01                rsh=158.3                 mobmod=1
+ prt=0                     ute=-1.5                  kt1=-0.11
+ kt1l=0                    kt2=0.022                 ua1=4.31e-9
+ ub1=-7.61e-18             uc1=-5.6e-11              at=3.3e4
+ wl=0                      wln=1                     ww=0
+ wwn=1                     wwl=0                     ll=0
+ lln=1                     lw=0                      lwn=1
+ lwl=0                     capmod=2                  xpart=0.5
+ cgdo=2.38e-10             cgso=2.38e-10             cgbo=1e-12
+ cj=1.413526e-3            pb=0.99                   mj=0.5543876
+ cjsw=3.800457e-10         pbsw=0.99                 mjsw=0.3108539
+ cjswg=4.42e-11            pbswg=0.99                mjswg=0.3108539
+ cf=0                      pvth0=8.809968e-3         prdsw=7.7292241
+ pk2=1.784584e-3           wketa=2.961467e-3         lketa=-5.506737e-3
// 
 
parameters  lambda = 0.175u
parameters  vdd_tech=3.3
//multiplication factor for Pmos transistor widths
parameters p_mult=2.0
